US06573388B1
To a solution of 2(S)-hydroxy-3(S)-(t-butyloxycarbonyl)amino-1-(4-nitrobenzenesulfonyl)-1-isobutylamino-4-phenylbutane (93 mg, 0.19 mmol) in 1 mL of dry CH2Cl2 was passed anhydrous HCl gas for 0.5 h. After removal of HCl gas bubbler, the mixture was stirred for 1 h. The solvent was removed in vaccuo and the residue was dissolved in 1 mL of dry CH2Cl2. To the mixture were added triethylamine (30 μl, 0.23 mmol) and N-succinimidyl (S)-(+)-3-hydroxytetrahydrofuran carbonate (44 mg, 0.19 mmol) at room temperature. The mixture was stirred for 4 h until no starting material remained by TLC and it was poured into brine (2 mL) and extracted with EtOAc (10 mL). The organic extract was dried over anhydrous MgSO4 and concentrated under reduced pressure. The crude compound was recrystallized in ethyl acetate to give 86 mg of 2(S)-hydroxy-3(S)-[3(S)-tetrahydropyranyloxycarbonyl]amino-1-(4-nitrobenzenesulfonyl)-1-isobutylamino-4-phenylbutane.

reactant | 2(S)-hydroxy-3(S)-(t-butyloxycarbonyl)amino-1-(4-nitrobenzenesulfonyl)-1-isobutylamino-4-phenylbutane | 0.19 mmol, 93 mg | O[C@H](C(NCC(C)C)S(=O)(=O)C1=CC=C(C=C1)[N+](=O)[O-])[C@H](CC1=CC=CC=C1)NC(=O)OC(C)(C)C | C25H35N3O7S
reactant | HCl | Cl | ClH
reactant | triethylamine | 0.23 mmol, 30 μl | C(C)N(CC)CC | C6H15N
reactant | brine | 2 mL | [Cl-].[Na+].O
solvent | CH2Cl2 | 1 mL | C(Cl)Cl | CH2Cl2
product | 2(S)-hydroxy-3(S)-[3(S)-tetrahydropyranyloxycarbonyl]amino-1-(4-nitrobenzenesulfonyl)-1-isobutylamino-4-phenylbutane | 86 mg, Yield: 85% | O[C@H](C(NCC(C)C)S(=O)(=O)C1=CC=C(C=C1)[N+](=O)[O-])[C@H](CC1=CC=CC=C1)NC(=O)O[C@@H]1COCCC1 | C26H35N3O8S
